US05703109
1-[1-(4-cyanophenyl)-4-(4-fluorophenyl)-2-oxobutyl]-1,2,4-triazole is prepared according to the procedure described in Example 1 starting from 1-(4-cyanobenzyl)-1,2,4-triazole (1.7 g, 0.0092 mol), n-BuLi (0.0108 mol) and ethyl 3-(4-fluorophenyl)propionate (2.3 g, 0.0117 mol) prepared from 4-fluorocinnamic acid by esterification and hydrogenation. The product is purified by flash chromatography methylene chloride-methanol (95:5) as eluent.

reactant | 1-(4-cyanobenzyl)-1,2,4-triazole | 0.0092 mol, 1.7 g | C(#N)C1=CC=C(CN2N=CN=C2)C=C1 | C10H8N4
reactant | n-BuLi | 0.0108 mol | [Li]CCCC
reactant | ethyl 3-(4-fluorophenyl)propionate | 0.0117 mol, 2.3 g | FC1=CC=C(C=C1)CCC(=O)OCC | C11H13FO2
reactant | 4-fluorocinnamic acid | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
product | 1-[1-(4-cyanophenyl)-4-(4-fluorophenyl)-2-oxobutyl]-1,2,4-triazole | C(#N)C1=CC=C(C=C1)C(C(CCC1=CC=C(C=C1)F)=O)N1N=CN=C1 | C19H15FN4O
